US09255110B2
A mixture of 3-methoxy-N,N-dimethyl-4-nitro-benzamide (185 mg) and palladium on carbon (10%, 20 mg) in ethanol (6 mL) was stirred under hydrogen atmosphere (balloon pressure), at room temperature, overnight. The reaction mixture was filtered on a CELITE™ pad and the filtrate was concentrated under reduced pressure. The crude residue was purified by flash chromatography (DCM/MeOH, 98/2) to afford 60 mg of 4-amino-3-methoxy-N,N-dimethyl-benzamide.

reactant | 3-methoxy-N,N-dimethyl-4-nitro-benzamide | 185 mg | COC=1C=C(C(=O)N(C)C)C=CC1[N+](=O)[O-] | C10H12N2O4
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 4-amino-3-methoxy-N,N-dimethyl-benzamide | 60 mg | NC1=C(C=C(C(=O)N(C)C)C=C1)OC | C10H14N2O2
